US09029361B2
Part E. Preparation of (8S,9aS)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-2-[4-(trifluoromethoxy)benzyl]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one
To (8S,9aS)-8-[(5-cyclopropylpyrazin-2-yl)oxy]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one hydrochloride (50 mg, 0.154 mmol, Part D) in anhydrous dichloroethane (0.7 mL) was added 4-(trifluoromethoxy)benzaldehyde (38 mg, 0.2 mmol), and N-ethyl-N-isopropylpropan-2-amine (39.8 mg, 0.308 mmol). After 10 minutes, sodium triacetoxyborohydride (75 mg, 0.354 mmol) was added. The mixture was stirred at room temperature overnight and then concentrated. The residue was purified by chromatography on silica gel (ethyl acetate) to give 33 mg (46.4% yield) of the title compound as a solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.83 (m, 2H), 0.98 (m, 2H), 1.82 (m, 1H), 2.12 (m, 1H), 2.20-2.32 (m, 2H), 2.42 (dd, J=12, 8 Hz, 1H), 2.61 (m, 1H), 2.70-2.90 (m, 3H), 3.50 (br d, J=12 Hz, 1H), 3.57 (br d, J=12 Hz, 1H), 3.62-3.72 (m, 2H), 4.12 (m, 1H), 5.29 (m, 1H), 7.31 (d, J=9 Hz, 2H), 7.43 (d, J=9 Hz, 2H), 8.15 (s, 1H), 8.18 (s, 1H); MS (ESI) m/z 463.0 (M+H)+.

reactant | (8S,9aS)-8-[(5-cyclopropylpyrazin-2-yl)oxy]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one hydrochloride | 0.154 mmol, 50 mg | Cl.C1(CC1)C=1N=CC(=NC1)O[C@H]1C[C@@H]2N(C(CCNC2)=O)C1
reactant | 4-(trifluoromethoxy)benzaldehyde | 0.2 mmol, 38 mg | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.308 mmol, 39.8 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium triacetoxyborohydride | 0.354 mmol, 75 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 0.7 mL | ClC(C)Cl | C2H4Cl2
product | (8S,9aS)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-2-[4-(trifluoromethoxy)benzyl]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one | 33 mg, 46.4% yield | C1(CC1)C=1N=CC(=NC1)O[C@H]1C[C@@H]2N(C(CCN(C2)CC2=CC=C(C=C2)OC(F)(F)F)=O)C1 | C23H25F3N4O3
